US07307075B2
4-[3-(4-Butylpiperidin-1-yl)propyl]-7-methyl-4H-benzo[1,4]oxazin-3-one (81MF2246F)
4-(3-Chloropropyl)-7-methyl-4H-benzo[1,4]oxazin-3-one (81MF2246b) (1.64 g, 6.84 mmol), K2CO3 (1.89 g, 13.68 mmol), NaI (2.05 g, 13.68 mmol) and 4-butylpiperidine (1.02 g, 7.18 mmol) were mixed according to GP11. CC (SiO2; Heptane/EtOAc 10:1-4) gave the title compound (81MF2246F) (1.85 g, 79%). 1H NMR (CDCl3) δ 6.97 (d, J=8.0 Hz, 1H), 6.82-6.78 (m, 2H), 4.54 (s, 2H), 3.94 (t, J=7.2 Hz, 2H), 2.86 (d, J=10.8 Hz, 2H), 2.37 (t, J=7.0 Hz, 2H), 2.28 (s, 3H), 1.92-1.79 (m, 4H), 1.66 (d, J=9.2 Hz, 2H), 1.31-1.18 (m, 9H), 0.88 (t, J=7.2 Hz, 3H) 13C NMR (CDCl3) δ 164.2, 145.3, 133.9, 126.3, 123.3, 117.7, 115.0, 67.8, 56.0, 54.3, 39.7, 36.5, 36.0, 32.7, 29.2, 24.9, 23.1, 20.8, 14.2.

reactant | 4-(3-Chloropropyl)-7-methyl-4H-benzo[1,4]oxazin-3-one | 6.84 mmol, 1.64 g | ClCCCN1C(COC2=C1C=CC(=C2)C)=O | C12H14ClNO2
reactant | K2CO3 | 13.68 mmol, 1.89 g | C(=O)([O-])[O-].[K+].[K+]
reactant | NaI | 13.68 mmol, 2.05 g | [Na+].[I-]
reactant | 4-butylpiperidine | 7.18 mmol, 1.02 g | C(CCC)C1CCNCC1 | C9H19N
solvent | Heptane EtOAc | CCCCCCC.CCOC(=O)C
product | 4-[3-(4-Butylpiperidin-1-yl)propyl]-7-methyl-4H-benzo[1,4]oxazin-3-one | 1.85 g, 79% | C(CCC)C1CCN(CC1)CCCN1C(COC2=C1C=CC(=C2)C)=O | C21H32N2O2
